US08791123B2
N-tert-butyl-5-((2R,4R)-2-(3-fluorophenyl)-4-hydroxypyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide
Prepared by the method described in Example 1 using 5-((2R,4R)-2-(3-fluorophenyl)-4-hydroxypyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid and tert-butyl amine to provide the final product as a white solid (24 mg, 100% yield). MS (apci) m/z=398.1 (M+H).

reactant | 5-((2R,4R)-2-(3-fluorophenyl)-4-hydroxypyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | FC=1C=C(C=CC1)[C@@H]1N(C[C@@H](C1)O)C1=NC=2N(C=C1)N=CC2C(=O)O | C17H15FN4O3
reactant | tert-butyl amine | C(C)(C)(C)N | C4H11N
product | N-tert-butyl-5-((2R,4R)-2-(3-fluorophenyl)-4-hydroxypyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide | 24 mg, 100% yield | C(C)(C)(C)NC(=O)C=1C=NN2C1N=C(C=C2)N2[C@H](C[C@H](C2)O)C2=CC(=CC=C2)F | C21H24FN5O2
